US06660744B1
A mixture of N-benzyl-N-(4-bromophenyl)-N-methylamine (3.52 g, 0.0128 mol), diboron pinacol ester (3.89 g, 0.0153 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.312 g, 0.00038 mol) and potassium acetate (3.72 g, 0.038 mol) in N,N-dimethylformamide (75 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (120 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (2:98) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield N-benzyl-N-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.75 g, 0.00232 mol) as a white solid.

reactant | N-benzyl-N-(4-bromophenyl)-N-methylamine | 0.0128 mol, 3.52 g | C(C1=CC=CC=C1)N(C)C1=CC=C(C=C1)Br | C14H14BrN
reactant | diboron pinacol ester | 0.0153 mol, 3.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00038 mol, 0.312 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.038 mol, 3.72 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | N-benzyl-N-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.00232 mol, 0.75 g | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C20H26BNO2
